US07125901B2
(4Z)-2-Methyl-4-(4-(methylsulfanyl)benzylidene)-1,3-oxazol-5(4H)-one (17.5 g), 1,4-dioxane (100 ml) and 4N-hydrochloric acid (27 ml) were combined. The reaction mixture was refluxed for 3 hours. After cooled to room temperature, the mixture was concentrated in vacuo. Ethyl acetate and water were added to the residue, and the precipitate was filtered in vacuo to give 3-(4-(methylsulfanyl)phenyl)-2-oxopropanoic acid (6.7 g) as a pale brown solid.

reactant | (4Z)-2-Methyl-4-(4-(methylsulfanyl)benzylidene)-1,3-oxazol-5(4H)-one | 17.5 g | CC=1OC(/C(/N1)=C/C1=CC=C(C=C1)SC)=O | C12H11NO2S
reactant | hydrochloric acid | 27 ml | Cl | ClH
reactant | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(4-(methylsulfanyl)phenyl)-2-oxopropanoic acid | 6.7 g | CSC1=CC=C(C=C1)CC(C(=O)O)=O | C10H10O3S
